US04243609
A solution of 8.2 g. of 2-fluoro-4-aminophenylacetic acid, 150 ml. of absolute ethanol, and 3 ml. of boron trifluoride etherate is heated to reflux for 15 hours. The solution is concentrated by distillation and then evaporated to dryness in vacuo. The residue is dissolved in ethyl ether, washed with aqueous sodium bicarbonate dried and evaporated to yield ethyl 2-fluoro-4-aminophenylacetate. A mixture of 5.0 g. of this amine, 9.4 g. of 1-bromohexadecane, 4.2 g. of anhydrous potassium carbonate and 40 ml. of hexamethylphosphoramide is heated at 80° C. for 7 hours. The mixture is then cooled, diluted with water, and extracted with ethyl ether. The ether extracts are washed with water, dried and evaporated. The residue is recrystallized from a mixture of chloroform and hexane, yielding ethyl 2-fluoro-4-(hexadecylamino)phenylacetate.

reactant | 2-fluoro-4-aminophenylacetic acid | FC1=C(C=CC(=C1)N)CC(=O)O | C8H8FNO2
reactant | boron trifluoride etherate | B(F)(F)F.CCOCC
solvent | ethanol | C(C)O | C2H6O
product | ethyl 2-fluoro-4-aminophenylacetate | FC1=C(C=CC(=C1)N)CC(=O)OCC | C10H12FNO2
